US06066641
3-Cyclopropylmethyl-8-isopropyl-N6 -propyl-isoguanine
5.29 g of 3-cyclopropylmethyl-8-isopropyl-6-thioxanthine and 50 ml of propylamine were heated in a 450 ml reactor to 150° C. After 10 hours, the solution was evaporated to dryness, the residue dissolved in 200 ml of methanol, treated with 0.26 g of charcoal, filtered and concentrated. The crystals were collected, washed and dried to give the title compound (4.81 c) as off-white crystals mp 208-10° C.

reactant | 3-cyclopropylmethyl-8-isopropyl-6-thioxanthine | 5.29 g | C1(CC1)CN1C(NC(C=2NC(=NC12)C(C)C)=S)=O | C12H16N4OS
solvent | propylamine | 50 ml | C(CC)N | C3H9N
product | 3-Cyclopropylmethyl-8-isopropyl-N6 -propyl-isoguanine | C1(CC1)CN1C(N=C(C=2NC(=NC12)C(C)C)NCCC)=O | C15H23N5O
